US07687503B2
3.5. 2-(methylamino)-2-oxoethyl 4-{5-[3-(trifluoro-methyl)phenyl]-2-pyridyl}-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 1 (step 1.4.). Starting with 1.50 g (3.43 mmol) of 2-(ethyloxy)-2-oxoethyl 4-{5-[3-(trifluoromethyl)phenyl]-2-pyridyl)-1-piperazine-carboxylate, obtained in step 3.4., and 8.6 ml (17.15 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, eluting with a 97/3 mixture of dichloromethane and methanol, followed by washing with diisopropyl ether, 1.18 g of product are obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-{5-[3-(trifluoromethyl)phenyl]-2-pyridyl)-1-piperazine-carboxylate | 3.43 mmol, 1.50 g | FC(C=1C=C(C=CC1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
reactant | methylamine | 2M | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(methylamino)-2-oxoethyl 4-{5-[3-(trifluoro-methyl)phenyl]-2-pyridyl}-1-piperazinecarboxylate | FC(C=1C=C(C=CC1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C20H21F3N4O3
